US06699910B2
Methanol (5.24 g, 164 mmol) was added drop-wise to a stirred suspension of LiBH4 (3.45 g, 150 mmol) in anhydrous CH2Cl2 (150 mL) under N2 atmosphere. After the addition of ethyl 5-bromo-2-methyl-2-phenyl-pentanoate (23.70 g, 106 mmol), the reaction mixture was heated to reflux overnight. The reaction mixture was cooled to 5° C. and hydrolyzed with ice (ca. 30 g) and NH4Cl solution (150 mL) for 1 h. The layers were separated and the aqueous layer was extracted with CH2Cl2 (3×150 mL). The combined organic layers were washed with NH4Cl solution (3×100 mL), dried over MgSO4 and concentrated in vacuo to furnish 5-bromo-2-methyl-2-phenyl-pentan-1-ol (20 g, 96.8%) as an oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm) 7.34-7.14 (m, 5H), 3.60 (m, 1H), 3.48 (m, 1H), 3.29 (t, J=6.0 Hz, 2H), 1.96-1.44 (m, 5H), 1.32 (s, 3H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm) 144.25, 128.59, 126.71, 126.41, 72.44, 43.15, 37.06, 34.64, 27.58, 21.61. HRMS (LSIMS, nba): Calcd. for C2H16Br (MH+—H2O): 239.0435, found: 239.0444.

reactant | Methanol | 164 mmol, 5.24 g | CO | CH4O
reactant | LiBH4 | 150 mmol, 3.45 g | [Li+].[BH4-]
reactant | ethyl 5-bromo-2-methyl-2-phenyl-pentanoate | 106 mmol, 23.70 g | BrCCCC(C(=O)OCC)(C1=CC=CC=C1)C | C14H19BrO2
reactant | NH4Cl | 150 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-methyl-2-phenyl-pentan-1-ol | 20 g, 96.8% | BrCCCC(CO)(C1=CC=CC=C1)C | C12H17BrO
